US07326791B2
(b) 4-(imidazol-1-ylmethyl)-3-methoxybenzoic acid
Prepared analogously to Example 19b from methyl 4-(imidazol-1-ylmethyl)-3-methoxybenzoate and sodium hydroxide solution in methanol. Yield: 85%; C12H12N2O3 (232.24); mass spectrum: (M+H)+=233.

reactant | methyl 4-(imidazol-1-ylmethyl)-3-methoxybenzoate | N1(C=NC=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C13H14N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 4-(imidazol-1-ylmethyl)-3-methoxybenzoic acid | Yield: 85% | N1(C=NC=C1)CC1=C(C=C(C(=O)O)C=C1)OC | C12H12N2O3
